US08309542B2
(c) 7-methoxymethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine
1.0 g (5.5 mmol) 7-methoxymethyl-4,5-dihydro-thieno[2,3-c]pyridine are dissolved in 10 ml of methanol and combined batchwise with 0.4 g (11.0 mmol) sodium borohydride while cooling with an ice bath. The ice bath is removed and the reaction mixture is stirred at RT for two hours. Then it is evaporated down and reacted further as the crude product.

reactant | 7-methoxymethyl-4,5-dihydro-thieno[2,3-c]pyridine | 5.5 mmol, 1.0 g | COCC1=NCCC2=C1SC=C2 | C9H11NOS
reactant | sodium borohydride | 11.0 mmol, 0.4 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 7-methoxymethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | COCC1NCCC2=C1SC=C2 | C9H13NOS
